US07943619B2
6-(5-Methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
As described for example 114k, 6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (38 mg, 0.12 mmol) was converted, using 2-amino-2-methyl-1-propanol instead of ethanolamine, to the title compound (36 mg, 77%) which was obtained as an off white foam. MS: m/e=385.5 [M+H]+.

reactant | 6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.12 mmol, 38 mg | CC1=C(C(=NO1)C1=NC=NC=C1)COC1=CC=C(N=N1)C(=O)O | C14H11N5O4
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 6-(5-Methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 36 mg, 77% | OCC(C)(C)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=NC=NC=C1 | C18H20N6O4
